US08802679B2
tert-Butyl (2-{[3-(6-formylpyridin-3-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (150 mg) and (2R)-pyrrolidin-2-ylmethanol (59 mg) was dissolved in dichloroethane (1 ml) and acetic acid (1 ml), followed by stirring at 60° C. for 30 minutes. Sodium triacetoxyborohydride (166 mg) was added thereto, followed by stirring at 60° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and to the obtained residue was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in MeOH (3 ml), and 4 M hydrogen chloride/EtOAc (1 ml) was added thereto, followed by stirring at room temperature overnight and concentrating under reduced pressure. Then, EtOH was added thereto, and then the precipitated solid was collected by filtration to obtain N-[3-(6-{[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl}pyridin-3-yl)benzyl]-N-methylglycinamide trihydrochloride (43 mg).

reactant | tert-Butyl (2-{[3-(6-formylpyridin-3-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 150 mg | C(=O)C1=CC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C21H25N3O4
reactant | (2R)-pyrrolidin-2-ylmethanol | 59 mg | N1[C@H](CCC1)CO | C5H11NO
reactant | Sodium triacetoxyborohydride | 166 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-[3-(6-{[(2S)-2-(hydroxymethyl)pyrrolidin-1-yl]methyl}pyridin-3-yl)benzyl]-N-methylglycinamide trihydrochloride | 43 mg | Cl.Cl.Cl.OC[C@H]1N(CCC1)CC1=CC=C(C=N1)C=1C=C(CN(C(CN)=O)C)C=CC1 | InChI=1S/C21H28N4O2.3ClH/c1-24(21(27)11-22)13-16-4-2-5-17(10-16)18-7-8-19(23-12-18)14-25-9-3-6-20(25)15-26;;;/h2,4-5,7-8,10,12,20,26H,3,6,9,11,13-15,22H2,1H3;3*1H/t20-;;;/m0.../s1
